US05538987
2-Methyl-5-(2-bromophenyl)furan
A solution of 18 g of 1-(2-bromophenyl)-1,4-pentanedione and 1 g of p-toluenesulfonic acid in 200 ml of anhydrous benzene is heated under reflux over molecular sieves for 12 h. The resulting solution is washed 3 times with brine, dried over Na2SO4 and evaporated to dryness under reduced pressure. The residue is purified by FC (eluent hexane:acetate 95:5) and 12.2 of a light yellow oil are obtained g (70% yield). 1H NMR (CDCl3), δ: 2.38 (d, 3 H), 6.12 (m, 1 H), 7.1-7.4 (m, 3 H), 7.63 (dd, 1 H), 7.79 (dd, 1 H).

reactant | 1-(2-bromophenyl)-1,4-pentanedione | 18 g | BrC1=C(C=CC=C1)C(CCC(C)=O)=O | C11H11BrO2
reactant | p-toluenesulfonic acid | 1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
product | 2-Methyl-5-(2-bromophenyl)furan | 70% yield | CC=1OC(=CC1)C1=C(C=CC=C1)Br | C11H9BrO
